US06232337B1
1-Benzyl-4-Hydroxypyrazole
1-Benzyl-4-t-butyldimethylsilyloxypyrazole (3.0 g, 10.4 mmol) was dissolved in THF (20 ml) and tetrabutylammonium fluoride (52 ml of 1M solution in THF) was added. The reaction was stirred overnight and the solvent removed in vacuo. The residue was dissolved in water and extracted into diethylether. The organics dried over sodium sulfate, and the ether removed in vacuo. The residue purified by column chromatography (silica gel, chloroform→2% methanol/chloroform) to yield product (0.63 g, 35%). MS

reactant | 1-Benzyl-4-t-butyldimethylsilyloxypyrazole | 10.4 mmol, 3.0 g | C(C1=CC=CC=C1)N1N=CC(=C1)O[Si](C)(C)C(C)(C)C | C16H24N2OSi
reactant | tetrabutylammonium fluoride | 1M, 52 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-Hydroxypyrazole | 0.63 g, 35% | C(C1=CC=CC=C1)N1N=CC(=C1)O | C10H10N2O
